US06534524B1
3-1H-Benzoimidazol-2-yl-6-(2,4-dihydroxyphenyl)-1H-indazole
6-(2-methoxy-4-hydroxyphenyl)-3-1H-benzoimidazol-2-yl-1H-indazole, prepared in example 24(d), (46 mg, 0.13 mmol) was heated in pyridinium chloride (0.5 g) at 180° C. for 2 h. The reaction was allowed to cool, and was quenched with sat. NaHCO3 (15 mL) and extracted with EtOAc (2×20 mL). Organics were dried (Na2SO4) and concentrated in vacuo. Purification by silica gel chromatography (60% THF/hexanes) gave 26 mg (59%) of the title compound as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 13.49 (s, 1H), 12.94 (s, 1H), 9.49 (s, 1H), 9.39 (s, 1H), 8.43 (d, 1H, J=8.4 Hz), 7.71-7.74 (m, 2H), 7.50 (d, 1H, J=6.9 Hz), 7.43 (dd, 1H, J=8.4, 1.2 Hz), 7.16-7.23 (m, 3H), 6.45 (d, 1H, J=2.1 Hz), 6.35 (dd, 1H, J=8.4, 2.1 Hz). MS (ES) [m+H]/z calc'd 343, found 343; [m−H]/z calc'd 341, found 341.

reactant | 6-(2-methoxy-4-hydroxyphenyl)-3-1H-benzoimidazol-2-yl-1H-indazole | COC1=C(C=CC(=C1)O)C1=CC=C2C(=NNC2=C1)C1=NC2=C(N1)C=CC=C2 | C21H16N4O2
solvent | pyridinium chloride | 0.5 g | [Cl-].[NH+]1=CC=CC=C1
product | 3-1H-Benzoimidazol-2-yl-6-(2,4-dihydroxyphenyl)-1H-indazole | 26 mg, 59% | N1C(=NC2=C1C=CC=C2)C2=NNC1=CC(=CC=C21)C2=C(C=C(C=C2)O)O | C20H14N4O2
